US07598377B2
8-Amino-2-(4-pyridinyl)-4(1H)-quinolinone (KN-353)
8-Nitro-2-(4-pyridinyl)4(1H)-quinolinone (KN-352) was hydrogenated using Pd/C in ethanol to afford the title compound: MS-ES m/e 238 (M+H).

reactant | 8-Nitro-2-(4-pyridinyl)4(1H)-quinolinone | [N+](=O)([O-])C=1C=CC=C2C(C=C(NC12)C1=CC=NC=C1)=O | C14H9N3O3
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 8-Amino-2-(4-pyridinyl)-4(1H)-quinolinone | NC=1C=CC=C2C(C=C(NC12)C1=CC=NC=C1)=O | C14H11N3O
